US05578627
To a solution of 0.47 g of 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-tert-butoxycarbonylamino-1,2-benzoisoxazole in 10 ml of methanol is added 5.0 ml of a dioxane solution (2.2N) of hydrogen chloride at 5°-10° C. and they are subjected to reaction at 20°-25° C. overnight. The solvent is removed from the reaction mixture by distillation under reduced pressure, and the residue obtained is crystallized from 2-propanol, after which the crystals are collected by filtration, to obtain 0.21 g of colorless, crystalline 5-amino-3-(2-amino-3-carbamoyloxypropoxy)-1,2-benzoisoxazole hydrochloride having a melting point of 230°-231° C.

reactant | 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-tert-butoxycarbonylamino-1,2-benzoisoxazole | 0.47 g | C(N)(=O)OCC(COC1=NOC2=C1C=C(C=C2)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C21H30N4O8
reactant | dioxane | 2.2N, 5.0 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5-amino-3-(2-amino-3-carbamoyloxypropoxy)-1,2-benzoisoxazole hydrochloride | Cl.NC=1C=CC2=C(C(=NO2)OCC(COC(N)=O)N)C1 | InChI=1S/C11H14N4O4.ClH/c12-6-1-2-9-8(3-6)10(15-19-9)17-4-7(13)5-18-11(14)16;/h1-3,7H,4-5,12-13H2,(H2,14,16);1H
